* C:\Users\Ordi\Documents\cours\4A\EE470\Accordeur\github\EE410_Projet_Accordeur\Simulation\SallenKey\SallenKey.asc
R1 N001 in1 10k
R2 0 IN2 20k
R3 0 N002 10K
R4 out1 N001 10k
C1 IN2 N001 10n
C2 0 N001 10n
R5 out1 N002 15K
XU1 IN2 N002 N004 0 out1 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 in1 0 SINE(0 50mv 1.5k) AC 50mv
V2 N004 0 5v
XU2 out1 N003 N004 0 out2 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N003 out2 45K
R7 0 N003 1K
.ac dec 100 1 100k
;.tran 0 100ms 0
.lib UniversalOpAmp2.lib
.backanno
.end
